### PR TITLE
feat(RingTheory/Finiteness/Defs): span of a set is finitely generated iff generated by a finite subset

### PR DESCRIPTION
**Pull request by Hagb**
---

- [x] depends on: #24648

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/RingTheory/Finiteness/Defs.lean [hunk 1]
```diff
@@ -80,6 +80,20 @@ lemma fg_iff_exists_finite_generating_family {A : Type u} [Semiring A] {M : Type
     have := Fintype.ofFinite (range g)
     exact ⟨(range g).toFinset, by simpa using hg⟩
 
+theorem fg_span_iff_fg_span_finset_subset (s : Set M) :
+  (span R s).FG ↔ ∃ (s' : Finset M), ↑s' ⊆ s ∧ span R s = span R s' := by
```
Comment (Ruben-VandeVelde) [inline Mathlib/RingTheory/Finiteness/Defs.lean:84]:
```suggestion
    (span R s).FG ↔ ∃ s' : Finset M, ↑s' ⊆ s ∧ span R s = span R s' := by
```

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]
Thanks!

File: Mathlib/RingTheory/Finiteness/Defs.lean (hunk 1 above)
Comment (Hagb) [reply Mathlib/RingTheory/Finiteness/Defs.lean:84]: Thanks! Sorry for the delay. I think I should migrate it to a fork.

**Comment by Hagb** [comment]
This PR has been migrated to a fork-based workflow: #26653.

File: Mathlib/RingTheory/Finiteness/Defs.lean (hunk 1 above)
Comment (Hagb) [reply Mathlib/RingTheory/Finiteness/Defs.lean:84]: Resolved in https://github.com/leanprover-community/mathlib4/pull/26653/commits/56260474604f3c0515f85918ac265e587458859d #26653.
